* source EE103_EXP1
R_R1         N00227 N00685  0.68k TC=0,0 
R_R2         0 N00685  1.5k TC=0,0 
R_R3         0 N00685  1.2k TC=0,0 
V_V1         N00227 0 12Vdc
V_V2         N00825 0 5.94Vdc
R_R5         N00825 N01160  0.3366k TC=0,0 
R_R4         0 N00685  1k TC=0,0 
R_R6         0 N01160  1k TC=0,0 
